US07943619B2
N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide
A solution of N-acetyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide (70 mg, 0.19 mmol) in methanol (2 mL) was treated with sodium bicarbonate (1 spatula) and stirred at room temperature for 16 h. The solvent was evaporated and the residue was extracted (dichloromethane/water). The organic phase was dried over sodium sulfate and concentrated. Crystallization of the residue from diisopropylether afforded the title compound as a light brown solid (40 mg, 65%). MS: m/e=325.4 [M+H]+.

reactant | N-acetyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide | 0.19 mmol, 70 mg | C(C)(=O)N(C(C)=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C19H18N4O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide | 40 mg, 65% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(C)=O | C17H16N4O3
